US09403839B2
4-[4-hydroxy-1-(4-isopropoxy-3-methyl-benzoyl)-4-piperidyl]-1-(3-pyridyl)butane-1,3-dione (4.5 g, 10.3 mmol) was dissolved in glacial acetic acid (45 mL, 791 mmol) and stirred at reflux for 2 hours. Acetic acid was removed under reduced pressure. The crude residue was purified by column chromatography (40 gram silica gel column, 40-80% ethyl acetate/hexane) to provide 3-(4-isopropoxy-3-methyl-benzoyl)-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-9-en-8-one (3.75 g) as a yellow sticky foam. 1H NMR (400 MHz, CDCl3) δ=9.04 (d, J=1.9, 1H), 8.74 (dd, J=4.8, 1.5, 1H), 8.08-8.02 (m, 1H), 7.44 (dd, J=8.0, 4.9, 1H), 7.26-7.21 (m, 2H), 6.82 (d, J=8.6, 1H), 6.07 (s, 1H), 4.57 (dt, J=12.1, 6.0, 1H), 4.5-3.75 (m, 2H), 3.44 (br s, 2H), 2.65 (s, 2H), 2.23 (br s, 2H), 2.22 (s, 3H), 1.74 (br s, 2H), 1.35 (d, J=6.0, 6H). ESI-MS m/z calc. 420.20, found 420.8 (M+1)+; Retention time: 1.45 minutes (3 min run).

reactant | 4-[4-hydroxy-1-(4-isopropoxy-3-methyl-benzoyl)-4-piperidyl]-1-(3-pyridyl)butane-1,3-dione | 10.3 mmol, 4.5 g | OC1(CCN(CC1)C(C1=CC(=C(C=C1)OC(C)C)C)=O)CC(CC(=O)C=1C=NC=CC1)=O | C25H30N2O5
reactant | acetic acid | 791 mmol, 45 mL | C(C)(=O)O | C2H4O2
product | 3-(4-isopropoxy-3-methyl-benzoyl)-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-9-en-8-one | 3.75 g | C(C)(C)OC1=C(C=C(C(=O)N2CCC3(CC2)CC(C=C(O3)C=3C=NC=CC3)=O)C=C1)C | C25H28N2O4
